US08580859B2
(S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butyl methanesulfonate (1.1 g, 3.51 mmol, 1.0 eq) was dissolved in EtOH (10 mL) and water (8.0 mL). Sodium sulfite (2.21 g, 5.0 eq) was added. The mixture was heated to reflux for 16 hours, and concentrated. The residue was purified by reversed phase column (Diaion HP-20) using distilled water (200 ml) first, then 10% CH3CN in water and finally 20% CH3CN in water to give sodium (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butane-1-sulfonate (376 mg, 37%). 1H NMR (DMSO-d6, 300 MHz) d 6.75 (d, 1H, NH), 3.50 (br s, 1H, BocNHCH), 2.3-2.5 (m, 4H, SCH2 and OSCH2, overlapped with DMSO solvent peak), 2.0 (s, 3H, SCH3), 1.8 (m, 1H, NHCHCH2CH2S), 1.6 (m, 1H, NHCHCH2CH2S), 1.35 (s, 9H, OC(CH3)3). LC-MS: 2.03 min; MS (ESI−) m/z 298 (M-Na)+, 198 (M-Na-Boc)+.

reactant | (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butyl methanesulfonate | 3.51 mmol, 1.1 g, 1.0 eq | CS(=O)(=O)OC[C@H](CCSC)NC(=O)OC(C)(C)C | C11H23NO5S2
reactant | Sodium sulfite | 2.21 g, 5.0 eq | S(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 8.0 mL | O | H2O
product | sodium (S)-2-(tert-butoxycarbonylamino)-4-(methylthio)butane-1-sulfonate | 376 mg, 37% | C(C)(C)(C)OC(=O)N[C@H](CS(=O)(=O)[O-])CCSC.[Na+] | InChI=1S/C10H21NO5S2.Na/c1-10(2,3)16-9(12)11-8(5-6-17-4)7-18(13,14)15;/h8H,5-7H2,1-4H3,(H,11,12)(H,13,14,15);/q;+1/p-1/t8-;/m0./s1
